* 20-bit Sigma-Delta ADC — OTA for Integrators
* SKY130 130nm CMOS
* Two-stage Miller-compensated OTA (single-ended)

.lib sky130_models/sky130.lib.spice tt

* === Design Parameters ===
.param p_wn_in   = 4e-6
.param p_ln_in   = 0.5e-6
.param p_wp_load = 4e-6
.param p_lp_load = 1e-6
.param p_wn_tail = 4e-6
.param p_ln_tail = 2e-6
.param p_wp_2nd  = 10e-6
.param p_lp_2nd  = 0.5e-6
.param p_wn_2nd  = 4e-6
.param p_ln_2nd  = 1e-6
.param p_cc      = 0.25e-12
.param p_ibias   = 5e-6
.param p_cap_s   = 4e-12
.param p_cap_i   = 4e-12

* === Two-Stage Miller OTA ===
* Ports: vip vin vout vdd vss vbn
* vbn: gate voltage for NMOS current mirrors/sources
.subckt ota vip vin vout vdd vss vbn

* --- Stage 1: NMOS differential pair + PMOS active load ---
* Tail current source
XMtail ntail vbn vss vss sky130_fd_pr__nfet_01v8 w={p_wn_tail} l={p_ln_tail} m=1

* Differential pair (NMOS input for higher gm/Id)
XM1 nd1 vip ntail vss sky130_fd_pr__nfet_01v8 w={p_wn_in} l={p_ln_in} m=2
XM2 nd2 vin ntail vss sky130_fd_pr__nfet_01v8 w={p_wn_in} l={p_ln_in} m=2

* Active load (PMOS current mirror)
XM3 nd1 nd1 vdd vdd sky130_fd_pr__pfet_01v8 w={p_wp_load} l={p_lp_load} m=1
XM4 nd2 nd1 vdd vdd sky130_fd_pr__pfet_01v8 w={p_wp_load} l={p_lp_load} m=1

* --- Stage 2: Common-source amplifier ---
* PMOS driver (driven by 1st stage output nd2)
XM5 vout nd2 vdd vdd sky130_fd_pr__pfet_01v8 w={p_wp_2nd} l={p_lp_2nd} m=2

* NMOS current source (biased by vbn)
XM6 vout vbn vss vss sky130_fd_pr__nfet_01v8 w={p_wn_2nd} l={p_ln_2nd} m=1

* Miller compensation capacitor
Cc nd2 vout {p_cc}

.ends ota

* === Top-level test circuit ===
VDD vdd 0 DC 1.8
VSS vss 0 DC 0

* Bias: diode-connected NMOS generates vbn from ibias
XMbias vbn vbn vss vss sky130_fd_pr__nfet_01v8 w={p_wn_tail} l={p_ln_tail} m=1
Ibias vdd vbn DC {p_ibias}

* OTA under test
Xota1 vip vin vout vdd vss vbn ota

* Input: common-mode at 0.9V, AC stimulus on positive input
Vcm vip 0 DC 0.9 AC 1.0

* DC feedback: moderate resistor for stable convergence
* At DC, forces unity-gain follower → vout ≈ 0.9V
* At AC: Rfb loads output, but we correct for it
Rfb vout vin 10e6

* Load capacitor (representative of sampling cap)
Cload vout 0 {p_cap_s}

* Help SPICE convergence to correct operating point
.nodeset v(vout)=0.9 v(vin)=0.9

.control
* Placeholder — replaced by evaluate.py
op
print v(vout) v(vin) v(vip)
quit
.endc

.end
